US08247403B2
(2) N-benzyl-3-bromo-2,6-difluoro-N-(2-hydroxyethyl)benzamide
To a solution of 3-bromo-2,6-difluorobenzoic acid (2.00 g, 8.44 mmol) and N,N-dimethylformamide (0.1 ml) in tetrahydrofuran (40 ml) was added dropwise oxalyl chloride (1.47 ml, 16.9 mmol) in a water bath, and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure. The residue was added under ice-cooling to a solution of N-benzylethanolamine (1.28 ml, 8.44 mmol) and triethylamine (1.77 ml, 12.7 mmol) in tetrahydrofuran (50 ml), and the mixture was stirred at 0° C. for 15 min and at room temperature for 1 hr. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solution of diethyl ether and diisopropyl ether to give the desired product (2.10 g, 67.3%) as a solid.

reactant | 3-bromo-2,6-difluorobenzoic acid | 8.44 mmol, 2.00 g | BrC=1C(=C(C(=O)O)C(=CC1)F)F | C7H3BrF2O2
reactant | oxalyl chloride | 16.9 mmol, 1.47 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-benzylethanolamine | 8.44 mmol, 1.28 ml | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | triethylamine | 12.7 mmol, 1.77 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
product | N-benzyl-3-bromo-2,6-difluoro-N-(2-hydroxyethyl)benzamide | 2.10 g, 67.3% | C(C1=CC=CC=C1)N(C(C1=C(C(=CC=C1F)Br)F)=O)CCO | C16H14BrF2NO2
